US07141596B2
N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea
N′-(tert-butyl)-N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea (4.5 mg, 0.008 mmol) was heated in trifluoroacetic acid (1 mL) at 100° C. for 5 min in a microwave. The mixture was concentrated and purified by preparative LCMS to give the title compound as a white solid, (3.0 mg, 75%). LCMS found for C25H26N3O5S (M+H)+: m/z=480.

reactant | N′-(tert-butyl)-N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea | 0.008 mmol, 4.5 mg | C(C)(C)(C)NC(N(CCC1=CC=C(C=C1)OC1=CC=CC=C1)CC1=CC=C(C=C1)C1CC(NS1(=O)=O)=O)=O | C29H33N3O5S
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[4-(1,1-dioxido-3-oxoisothiazolidin-5-yl)benzyl]-N-[2-(4-phenoxyphenyl)ethyl]urea | 3.0 mg, 75% | O=S1(NC(CC1C1=CC=C(CN(C(=O)N)CCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1)=O)=O | C25H25N3O5S
